US06949538B2
[(R)-(Z)-4-(3-Cyano-phenyl)-1-isopropyl-2-oxo-but-3-enyl]-carbamic acid tert-butyl ester
Following the procedure described for [(R)-(E)-1-isopropyl-4-(3-methoxy-phenyl)-2-oxo-but-3-enyl]-carbamic acid tert-butyl ester with 3-iodobenzonitrile (5.50 g, 24.0 mmol, 1 equiv) afforded the title compound as a yellow solid (7.4 g of ˜90% purity material). ESMS [M+H]+: 329.2.

reactant | [(R)-(E)-1-isopropyl-4-(3-methoxy-phenyl)-2-oxo-but-3-enyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C(\C=C\C1=CC(=CC=C1)OC)=O)C(C)C)=O | C19H27NO4
reactant | 3-iodobenzonitrile | 24.0 mmol, 5.50 g, 1 equiv | IC=1C=C(C#N)C=CC1 | C7H4IN
product | [(R)-(Z)-4-(3-Cyano-phenyl)-1-isopropyl-2-oxo-but-3-enyl]-carbamic acid tert-butyl ester | 7.4 g, ~90% | C(C)(C)(C)OC(N[C@@H](C(\C=C/C1=CC(=CC=C1)C#N)=O)C(C)C)=O | C19H24N2O3
